US07582761B2
A mixture of 3-bromo-2-chloropyridine (2 g, 9 mmol, Aldrich), (R)-(−)-2-methylpiperazine (1.5 g. 15 mmol) and N,N-diisopropylethylamine (1 mL, 5.8 mmol) in NMP (1 mL) was heated in a microwave synthesizer for 60 min at 240° C. The reaction mixture was concentrated and purified by silica gel chromatography, eluting with 10% MeOH in dichloromethane to give 0.5 g (22%) of (2R)-1-(3-bromopyridin-2-yl)-2-methylpiperazine MS (ESI, pos. ion). MS m/z: 256 (M+1), and 0.75 g (33%) of (3R)-1-(3-bromopyridin-2-yl)-3-methylpiperazine. MS m/z: 256 (M+1).

reactant | 3-bromo-2-chloropyridine | 9 mmol, 2 g | BrC=1C(=NC=CC1)Cl | C5H3BrClN
reactant | (R)-(−)-2-methylpiperazine | 15 mmol, 1.5 g | C[C@H]1NCCNC1 | C5H12N2
reactant | N,N-diisopropylethylamine | 5.8 mmol, 1 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | (2R)-1-(3-bromopyridin-2-yl)-2-methylpiperazine | 0.5 g, 22% | BrC=1C(=NC=CC1)N1[C@@H](CNCC1)C | C10H14BrN3
